Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ liver biopsy ___
attach
 
Pertinent Results:
___ 07:40PM   ALT(SGPT)-128* AST(SGOT)-271* LD(LDH)-183 ALK 
PHOS-370* AMYLASE-119* TOT BILI-9.1*
___ 07:40PM   LIPASE-149*
___ 07:40PM   ALBUMIN-2.8*
___ 07:40PM   WBC-5.0 RBC-4.24* HGB-12.4* HCT-36.7* MCV-87 
MCH-29.2 MCHC-33.8 RDW-16.4* RDWSD-48.4*
___ 04:40AM   HCV Ab-POS*
___ 04:40AM   HBsAg-NEG HBs Ab-POS HBc Ab-POS* HAV Ab-POS* 
IgM HBc-NEG IgM HAV-NEG

Discharge labs:
WBC 3.4, hgb 12.2, plt 292
INR 1,1
CD4 count 125 on ___
creatinine 1.1, K 4.6

ALT 81
AST 168
AP 378
Tbili 2.7 (from peak of 9.1)

HBsAg neg, HbsAb pos, HBcAb pos, HAV Ab pos (IgM neg), IgM HBc 
neg; HCV Ab pos, 
AMA, ___, anti-LMK neg neg
IGs WNL
ceruloplasmin WNL

chlamydia, gonorrhea neg

stool cultures ___: cyclospora, cryptosporidium, giardia neg

MRCP ___:
Enlargement of the pancreas.  Restricted diffusion in the liver 
and pancreas.  
Possibility of autoimmune pancreatitis/IgG4 disease should be 
considered.  No 
biliary dilatation, strictures, or filling defects.  Evidence 
for sclerosing 
cholangitis is generally lacking aside from mild wall thickening 
of 
extrahepatic biliary ducts.  Possible bone marrow abnormality. 

Liver or gallbladder US ___:
  
1. Mild intrahepatic biliary duct dilation. 
2. Contracted gallbladder with pericholecystic fluid.  No 
evidence of 
cholelithiasis or cholecystitis. 
3. Borderline splenomegaly. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with HIV, recent treatment for 
pancolitis attributed to shigella infection who now presents 
with painless jaundice.  RUQUS without evidence of extrahepatic 
biliary ductal dilatation; no clinical findings (fever, 
abdominal pain) to suggest ascending cholangitis.

ACUTE/ACTIVE PROBLEMS:
# Painless jaundice
# Prior shigella infection with co-existing transaminitis

Review of outside hospital ___) notable for 
transaminitis evident at time of prior admission for pancolitis. 
 Though pancolitis eventually attributed to Shigella infection 
(and resolved with ciprofloxacin), the etiology of his abnormal 
LFTs remained uncertain and he was advised to monitor for 
worsening jaundice.  He presented to ___ after his 
friends noticed such jaundice, in absence of any pain, fever, 
nausea/vomiting, or recurrent diarrheal syndrome.  MRCP without 
evidence of ductal dilatation, stricture, or filling defects, 
but notable for enlarged pancreas.  Hepatology consult 
recommended ___ liver biopsy for tissue diagnosis, which 
was performed on ___ without apparent complication. Laboratory 
workup for liver abnormalities was notable only for evidence of 
prior (cleared) hep B infection, and a positive HCV Ab

CHRONIC/STABLE PROBLEMS:
# HIV
# Prior history of syphilis
# Prior history of cryptosporidium infection
# Prior history of zoster infection
# Prior history of genital HSV infection
# ___'s sarcoma

Patient was continued on outpatient regimen of 
Bictegrav-Emtricit-Tenofov.  Once his ciprofloxacin dose was 
completed, he was resumed on Bactrim for PJP prophylaxis per ID 
recs.  He was also continued on acyclovir (therapeutic 
substitution for valacyclovir, which he takes at home) for 
genital HSV suppression.  ID consult recommended follow-up with 
Oncology regarding ongoing evaluation of his Kaposi's sarcoma.
########################
>30 minutes spent on discharge planning and care coordination on 
the day of discharge
########################
TRANSITIONAL ISSUES:
[ ] please encourage pt to go to his hepatology follow up on 
___ for follow up of liver biopsy results
[ ] pt will need hep C viral load, and possible treatment 
thereof
[ ] pt should see oncology in the outpatient setting for further 
management of his Kaposi sarcoma
[ ] f/u IgG sbuclasses

 
 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ValACYclovir 500 mg PO Q24H 
2. Tamsulosin 0.4 mg PO QHS 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY 

 
Discharge Medications:
1.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour 1 patch once a day Disp 
#*30 Patch Refills:*0 
2.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0 
3.  Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY  
4.  Tamsulosin 0.4 mg PO QHS  
5.  ValACYclovir 500 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
jaundice
hepatitis C
HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress
HEENT: Still with mild scleral icterus and mild icterus 
underneath tongue
COR: RRR, no m/r/g
LUNGS: CTAB w/o c/r/w
GI: Abdomen soft, non-distended, non-tender to palpation.  
EXTREM: no ___ edema
SKIN: KS lesions L lower leg stable w/o fluctuance
NEURO: Alert, interactive, detailed and fluent historian.  No
asterixis.
PSYCH: Calm, pleasant, appropriate affect

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of jaundice. You were 
evaluated by the liver doctors (___). You had a workup 
that showed that you have hepatitis C, and that you had a prior 
hepatitis B infection. You had a liver biopsy on ___, the 
results of which we do not yet have.
Your liver tests were improving by the day of discharge.

You were set up with an appointment with a hepatologist to 
follow up on the liver biopsy on ___. It is VERY 
important that you go to this appointment even though it is far.

Please continue to take Bactrim once a day for prophylaxis. 

It was a pleasure taking care of you!

Your ___ Care team
 
Followup Instructions:
___